US09029546B2
N-((4-aminocyclohexyl)methyl)-6-(1H-pyrazolo[3,4-b]pyridin-3-yl)-5-(trifluoromethyl)pyridin-2-amine (Compound 25)
A mixture of 3-(6-chloro-3-(trifluoromethyl)pyridin-2-yl)-1H-pyrazolo[3,4-b]pyridine (100 mg, 0.33 mmol), K2CO3 (55.53 mg, 0.40 mmol) and tert-butyl N-[4-aminomethyl)cyclohexyl]carbamate (86.11 mg, 0.40 mmol) in DMF (1 mL) were heated at 115° C. for 8 hours. The reaction was worked up by diluting with DCM, washing with saturated aqueous bicarbonate and brine. After drying over MgSO4, the mixture was filtered and evaporated to dryness to give an orange residue. The residue was taken up in TFA/DCM (1 ml/3 ml) and stirred at RT for 2 hours. Reaction mixture was concentrated and the resultant residue was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 uM, 100 A column, gradient 10%-95% B (solvent A: 0.05% TFA in water, solvent B: CH3CN) over 16 minutes at 25 mL/min]. The fractions were collected, passed through a sodium bicarbonate cartridge and freeze-dried to give the title compound as a white solid (29 mg, 17% Yield).

reactant | 3-(6-chloro-3-(trifluoromethyl)pyridin-2-yl)-1H-pyrazolo[3,4-b]pyridine | 0.33 mmol, 100 mg | ClC1=CC=C(C(=N1)C1=NNC2=NC=CC=C21)C(F)(F)F | C12H6ClF3N4
reactant | K2CO3 | 0.40 mmol, 55.53 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | carbamate | 0.40 mmol, 86.11 mg | C(N)([O-])=O
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | TFA DCM | 1 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-((4-aminocyclohexyl)methyl)-6-(1H-pyrazolo[3,4-b]pyridin-3-yl)-5-(trifluoromethyl)pyridin-2-amine | 29 mg, 17% Yield | NC1CCC(CC1)CNC1=NC(=C(C=C1)C(F)(F)F)C1=NNC2=NC=CC=C21 | C19H21F3N6
